US05910498
Ethyl 1-(3-amino-4,5,6-trifluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate
Ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)-1,8-naphthyridine-3-carboxylate (780 mg) was dissolved in 5 ml of methanol and 10 ml of acetic acid, to which was added 80 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred overnight at room temperature. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. Ethanol was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 200 mg of the title compound.

reactant | Ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,3,4-trifluoro-5-nitrophenyl)-1,8-naphthyridine-3-carboxylate | 780 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C(=C(C(=C1)[N+](=O)[O-])F)F)F)C(=O)OCC)=O)F | C17H8ClF4N3O5
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | Ethyl 1-(3-amino-4,5,6-trifluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 200 mg | NC=1C=C(C(=C(C1F)F)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)OCC | C17H10ClF4N3O3
